US07354944B2
3-Methyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde:
80 ml anhydrous THF were charged into a 250 ml round bottom flask and was chilled to −78° C. t-BuLi (1.70 M in THF, 17.6 ml, 30 mmol) was added to the flask via syringe. After stirring for 5 min, 5-bromo-3-methyl-1H-pyrazolo[3,4-b]pyridine (2.12 g,10 mmol) was added dropwise via syringe. After 30 min, DMF (3.65 g, 50 mmol) in 20 ml THF was added dropwise and the mixture was stirred for overnight. The reaction was quenched by saturated aqueous ammonium chloride. After evaporating the excess THF, the reaction mixture was extracrted by ethylacetate twice. The combined organic layer was washed with brine once and dried over sodium sulfate. The crude product was chromatographed with 50% ethylacetate in hexane to afford the desired product (0.23 g, y=20.5%).

reactant | t-BuLi | 30 mmol, 1.70 M, 17.6 ml | [Li]C(C)(C)C
reactant | 5-bromo-3-methyl-1H-pyrazolo[3,4-b]pyridine | 10 mmol, 2.12 g | BrC=1C=C2C(=NC1)NN=C2C | C7H6BrN3
reactant | DMF | 50 mmol, 3.65 g | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3-Methyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 0.23 g, 20.5% | CC1=NNC2=NC=C(C=C21)C=O | C8H7N3O
